US04354973
8-Chloro-6-(2-fluorophenyl)-1-methyl-2H,4H-pyrrolo-[3,4-d][2]benzazepine-3-carboxylic acid methyl ester
A mixture of 3.0 g (6.4 mmole) of 8-chloro-6-(2-fluorophenyl)-1-methyl-3-[(trichloromethyl)carbonyl]-2H,4H-pyrrolo[3,4-d][2]benzazepine, 0.5 ml (2 mmole) of a 4 M methanol solution of sodium methoxide and 100 ml of methanol was heated to 40° for 30 min. The methanol solution was concentrated at reduced pressure, and the residue was partitioned between methylene chloride and water. The methylene chloride solution was dried with anhydrous sodium sulfate and concentrated at reduced pressure to give (mp 228°-231°) tan needles. Recrystallization from methylene chloride gave fine colorless needles, mp 229°-231°.

reactant | 8-chloro-6-(2-fluorophenyl)-1-methyl-3-[(trichloromethyl)carbonyl]-2H,4H-pyrrolo[3,4-d][2]benzazepine | 6.4 mmole, 3.0 g | ClC1=CC2=C(C=3C(CN=C2C2=C(C=CC=C2)F)=C(NC3C)C(=O)C(Cl)(Cl)Cl)C=C1 | C21H13Cl4FN2O
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 4 M | CO | CH4O
product | 8-Chloro-6-(2-fluorophenyl)-1-methyl-2H,4H-pyrrolo-[3,4-d][2]benzazepine-3-carboxylic acid methyl ester | COC(=O)C=1NC(=C2C1CN=C(C1=C2C=CC(=C1)Cl)C1=C(C=CC=C1)F)C | C21H16ClFN2O2
